Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / shellfish derived / terbinafine / minocycline
 
Attending: ___.
 
Chief Complaint:
elevated LFTs
 
Major Surgical or Invasive Procedure:
Liver biopsy (___)

 
History of Present Illness:
Mr. ___ is a pleasant ___ man with a past medical
history of self-limited transaminitis in the setting of
terbinafine for a foot fungus, who presents with a 3 week 
history
acholic stools, dark urine, and jaundice, found to have
transaminitis on bloodwork at his PCP's office.

The patient was in a good state of health until earlier this 
year
when he developed a onchymycosis of the foot, which was 
resistant
to initial topical treatments. He was placed on terbinafine for 
a
one-month course ___ - ___ by his dermatologist. Routine
labwork performed 2 weeks into this course revealed AST > 1000,
ALT > 300. By the time the patient learned of this abnormality,
he had already completed the course of Terbinafine. Due to his
busy schedule, he was unable to follow up with a PCP for
surveillance of his LFTs.

Over the past 3 weeks, the patient has noticed gradual new
yellowing of his eyes, lethargy, occasional pruritis, dark 
urine,
and acholic stools. He has also experienced decreased exercise
tolerance. He denies chest pain, shortness of breath, fevers,
abdominal pain, nausea, vomiting, diarrhea, dysuria, hematuria.
He denies IV drug use, new sexual partners, or history blood of
transfusions. His last alcoholic drink was several years ago.
Patient has history of supplement use including protein, whey,
AA, BCA, MV, Creatine, all of which he stopped at the end of
___. In ___, he began taking lecithin. In ___, he was
prescribed Tretinoin gel, Minocycline, and Clindamycin for acne
by his dermatologist.

Per the ED resident's conversation with Dr. ___ patient
established care with Dr. ___ past ___.
Follow up bloodwork was performed at the visit. Dr. ___
called the patient on the day of admission, and told him to
present to the ED due to concerning liver labs. Per ED report,
AST 2196, ALT 2502, INR 1.1, TBili 7.7, ALk Phos 240. Hepatitis
panel was normal (Hep A, B, C). 

In the ED, initial vitals:  T 97.8  HR 75  BP 144/91  RR 16  POx
99% on RA

- Exam notable for: 
HEENT: Scleral icterus
Abd: Soft, nondistended, some vague epigastric tenderness, but 
no
right upper quadrant tenderness
Ext: No edema, cyanosis, or clubbing. 
Neuro: AAOx3. Gross sensorimotor intact. 
Psych: Normal mentation. 
Heme: No petechiae 

- Labs notable for:  
Na 132
K 5.7
Cr 0.7

INR 1.2

ALT 3226
AST 2411
AP 278
Tbili 7.5
DBili 3.8
Lipase 47

Negative Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne,
Oxycodone

UA: 4 urobilinogen, moderate bilirubin, few bacteria.

- Imaging notable for:  

___ RUQ US:
1. Prominence of the hepatic portal triads suggestive of
hepatitis. No
biliary ductal dilatation.
2. 3 cm hyperechoic right hepatic lesion may represent a
hemangioma. Consider nonemergent abdominal MRI with and without
contrast for confirmation, if clinically indicated.

- Hepatology was consulted who recommended admission to
Hepatology service. Also recommended full infectious, toxic,
autoimmune workup of hepatitis, and trending of CBC/LFTs/Coags 
to
monitor for acute liver failure. 

- Pt not given any medicines in the ED.

- Vitals prior to transfer:  T 97.8  HR 77  BP 131/80  RR 16  
98%
on RA
 
On the floor, the patient is resting comfortably in bed
surrounded by his family members (wife and 3 children). He is
asymptomatic except for occasional pruritis of his shins and
chest. He denies CP, palpitations, SOB, dizziness, constipation,
diarrhea, fever, chills, weight loss, or night sweats.

REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative. 
 
Past Medical History:
Right hallux fungal infection (early ___ s/p terbinafine
Transaminitis (___)
 
Social History:
___
Family History:
Patient's mother is alive and has a PMH of HTN, DMII, HLD, 
cancer
(throat and breast). 
Patient's father is alive and has a PMH of DMII, HTN, seasonal
allergies. 
No direct family member has a history of liver disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: T 97.5 BP 133 / 86 HR 68 RR 18 O2 sat 100 Ra  
Weight:  105.6 kg
General: Alert, oriented, no acute distress  
HEENT: Icteric sclerae/frenulum/posterior soft palate, MMM,
oropharynx clear, EOMI, PERRL, neck supple, JVP not elevated, no
LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
liver span normal on percussion, no splenomegaly appreciated, no
rebound tenderness or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions. Jaundice 
difficult
to appreciate given dark skin tone, but appreciable on the soles
of the fee.
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally. 

DISCHARGE PHYSICAL EXAM
VITALS: 98.5 PO 134 / 87 75 16 99 RA
General: Alert, oriented, no acute distress, pleasant
HEENT: Icteric sclerae/frenulum/posterior soft palate mildly
improved, MMM, EOMI
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops, or thrills
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi. Good inspiratory effort.
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no hepatosplenomegaly, no rebound tenderness or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis, or lower
extremity edema
Skin: Warm, dry, no rashes or notable lesions. Jaundiced.
Neuro: A&Ox3. Moving all 4 extremities with purpose. No
asterixis.
 
Pertinent Results:
ADMISSION LABS
___ 01:20PM BLOOD WBC-5.5 RBC-4.72 Hgb-12.8* Hct-37.5* 
MCV-79* MCH-27.1 MCHC-34.1 RDW-23.9* RDWSD-68.4* Plt ___
___ 01:20PM BLOOD Neuts-51.3 ___ Monos-12.7 Eos-1.5 
Baso-0.7 Im ___ AbsNeut-2.83 AbsLymp-1.85 AbsMono-0.70 
AbsEos-0.08 AbsBaso-0.04
___ 03:42PM BLOOD ___ PTT-36.2 ___
___ 01:20PM BLOOD Glucose-82 UreaN-12 Creat-0.7 Na-132* 
K-5.7* Cl-97 HCO3-22 AnGap-13
___ 01:20PM BLOOD ALT-3226* AST-2411* LD(LDH)-784* 
CK(CPK)-110 AlkPhos-278* TotBili-7.5* DirBili-3.8* IndBili-3.7
___ 01:20PM BLOOD Albumin-3.7 Calcium-9.3 Phos-4.0 Mg-2.2
___ 09:30PM BLOOD Ammonia-<10
___ 01:20PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 01:20PM BLOOD Smooth-POSITIVE*
___ 09:30PM BLOOD ___ Titer-1:80*
___ 09:30PM BLOOD IgG-3409*
___ 09:30PM BLOOD HIV Ab-NEG
___ 01:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:20PM BLOOD HCV Ab-NEG

PERTINENT LABS
___ 05:09AM BLOOD WBC-5.4 RBC-4.36* Hgb-12.1* Hct-35.0* 
MCV-80* MCH-27.8 MCHC-34.6 RDW-23.9* RDWSD-69.0* Plt ___
___ 05:21AM BLOOD ___ PTT-35.8 ___
___ 05:09AM BLOOD Glucose-91 UreaN-13 Creat-0.7 Na-134* 
K-4.3 Cl-98 HCO3-25 AnGap-11
___ 04:59AM BLOOD ALT-2646* AST-1894* LD(LDH)-339* 
AlkPhos-252* TotBili-7.3*
___ 05:00AM BLOOD ALT-2285* AST-1522* LD(___)-339* 
AlkPhos-293* TotBili-6.4*

DISCHARGE LABS
___ 06:55AM BLOOD WBC-9.1 RBC-4.26* Hgb-12.0* Hct-34.1* 
MCV-80* MCH-28.2 MCHC-35.2 RDW-23.8* RDWSD-69.0* Plt ___
___ 06:55AM BLOOD ___
___ 06:55AM BLOOD Glucose-96 UreaN-11 Creat-0.7 Na-135 
K-4.4 Cl-99 HCO3-24 AnGap-12
___ 06:55AM BLOOD ___ AST-1037* LD(LDH)-207 
AlkPhos-290* TotBili-4.9*
___ 06:55AM BLOOD Albumin-3.6 Calcium-9.0 Phos-4.0 Mg-2.1

IMAGING/STUDIES
RUQUS (___)- 1. Prominence of the hepatic portal triads 
suggestive of hepatitis.  No
biliary ductal dilatation.
2. 3 cm hyperechoic right hepatic lesion may represent a 
hemangioma.  Consider
nonemergent abdominal MRI with and without contrast for 
confirmation, if
clinically indicated.
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of self-limited 
elevated LFTs in the setting of terbinafine use, as well as a 3 
week history of acholic stools, dark urine, and jaundice, found 
to have significantly elevated LFTs on outpatient labs, admitted 
for acute hepatitis and ultimately found to have likely 
minocycline-induced autoimmune hepatitis.

ACTIVE ISSUES:
===============
# Acute hepatitis: Mixed hepatocellular and cholestatic pattern 
of injury. An extensive workup was sent that was notable for an 
anti-smooth muscle titer 1:20, ___ titer 1:80, and elevated IgG. 
This was concerning for drug-induced liver injury versus 
autoimmune hepatitis. The patient's LFTs were trended daily. He 
did not manifest encephalopathy and INR was less than 1.4 
throughout his hospitalization. Tox screen was negative and 
hepatitis serologies were all negative. Patient denied recent 
travel, risky sexual behavior, IVDU, no Tylenol use, and no 
alcohol use for several years. A liver biopsy was ultimately 
performed that was consistent with autoimmune hepatitis. Given 
the patient's ___ year history of minocycline use, it was thought 
that this was the trigger for the patient's current 
presentation. He was started on prednisone 40mg daily with good 
effect and continued decline in AST, ALT, and bilirubin.

# Hepatic lesion: 3 cm hyperechoic right hepatic lesion seen 
incidentally on RUQUS ___. Possibly hemagioma. Consider 
MRI liver as outpatient to confirm.

CHRONIC ISSUES:
===============
# Acne: Followed by dermatologist. Held tretinoin gel, 
minocycline, and clindamycin.

TRANSITIONAL ISSUES
=================== 
[] 3 cm lesion seen on liver ultrasound most consistent with 
hemangioma. If desired this can be followed up with a non-urgent 
liver MRI 
[] started on 40 mg prednisone to be continued for approx. 2 
weeks, final course to be determined on follow up with Dr. 
___ in ___ clinic. No Bactrim ppx necessary, 
should be on calcium/vitamin D for osteoporosis prevention. 
[] received hep A vaccine and #1 of hepatitis B vaccine on 
___. He should continue to be followed for hepatitis B vaccine 
series. He received the vaccines prior to steroid initiation. 
Would recommend continuing vaccine courses when off steroids
[] minocycline and terbinafine should be listed as allergies as 
patient may have had hepatitis from one/both of these 
medications 
[] patient to have labs checked on ___, results to be faxed to 
Dr. ___ at ___ and Dr. ___ at 
___

#Code status: FULL CODE (confirmed)
#HCP/emergency contact: ___ (Wife), ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clindamycin 1% Solution 1 Appl TP DAILY 
2. Minocycline 100 mg PO Q24H 
3. Tretinoin 0.025% Gel 1 Appl TP QHS 
4. Lecithin-Kelp-B6 (pyridoxine-kelp-lect-vinegar) 1 capsule 
oral DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 4 tablet(s) by mouth daily Disp #*120 
Tablet Refills:*0 
2.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3. HELD- Clindamycin 1% Solution 1 Appl TP DAILY  This 
medication was held. Do not restart Clindamycin 1% Solution 
until you speak with Dr. ___
4. HELD- Lecithin-Kelp-B6 (pyridoxine-kelp-lect-vinegar) 1 
capsule oral DAILY  This medication was held. Do not restart 
Lecithin-Kelp-B6 until you speak with Dr. ___
5. HELD- Tretinoin 0.025% Gel 1 Appl TP QHS  This medication was 
held. Do not restart Tretinoin 0.025% Gel until you speak with 
Dr. ___
6.Outpatient Lab Work
Patient should have CBC, Chem-10, and LFTs (AST, ALT, Alk phos, 
bilirubin, LDH) drawn on ___. Results can be faxed to Dr. 
___ at ___ and Dr. ___ at 
___
ICD-10: ___.4

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Minocycline-induced autoimmune hepatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
- You noticed yellowing of your eyes
- Your liver enzymes were extremely high on outpatient lab tests

What was done while I was in the hospital?
- Your labs were monitored and your liver enzymes and bilirubin 
began to decline
- You had a liver biopsy that showed autoimmune hepatitis; we 
think this is because of a drug you were taking called 
minocycline
- You were started on steroids, which caused more significant 
improvement in your liver tests

What should I do when I get home from the hospital?
- You should continue to take your prednisone as prescribed; you 
will stay on your current dose until you see Dr. ___ 
doctor) at his clinic in about 2 weeks
- You should take your vitamin D daily; you should also get 
over-the-counter calcium and take 600mg daily
- Be sure to go to your follow-up appointment with your primary 
care doctor and your liver doctor
- You should have minocycline and a medication called 
terbinafine listed as allergies, and not take them in the future
- If you have fevers, chills, abdominal pain, or worsening 
yellowing of your eyes, please call your doctor or go to the 
emergency room

Sincerely,
Your ___ Treatment Team 
 
Followup Instructions:
___